US04871730
The mixture was stirred for 30 minutes. To the mixture was added a solution of benzhydryl 7-amino-3-mesyloxy-3-cephem-4-carboxylate (9.21 g) and bis-(trimethylsilyl)urea (12.26 g) in acetonitrile (276 ml) under ice-cooling. The reaction mixture was stirred for 10 minutes at the same temperature. The insoluble material was filtered off. The filtrate was concentrated in vacuo and the residue was dissolved in ethyl acetate. The ethyl acetate solution was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo to give benzhydryl 7-amino-3-[(Z)-2-(3-pyridyl)vinylthio]-3-cephem-4-carboxylate (6.17 g).

reactant | benzhydryl 7-amino-3-mesyloxy-3-cephem-4-carboxylate | 9.21 g | NC1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C21H20N2O6S2
reactant | bis-(trimethylsilyl)urea | 12.26 g | C[Si](C)(C)NC(=O)N[Si](C)(C)C | C7H20N2OSi2
reactant | acetonitrile | 276 ml | C(C)#N | C2H3N
product | benzhydryl 7-amino-3-[(Z)-2-(3-pyridyl)vinylthio]-3-cephem-4-carboxylate | 6.17 g | NC1[C@@H]2N(C(=C(CS2)S\C=C/C=2C=NC=CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C27H23N3O3S2
